US06867210B2
2-[4-(4-Fluorophenoxy)phenyl]pyrimidine-4-carboxamide
2-[4-(4-Fluorophenoxy)phenyl]-4-methylpyrimidine: A 1M solution of potassium tert-butoxide in THF (11 mL, 11 mmol) was added via syringe to a solution of 4-(4-fluorophenoxy)benzamidine acetate (2.92 g, 10.2 mmol) in DMF. The resulting mixture was heated at 100° C. for 2 hours. Acetylacetaldehyde dimethyl acetal (2 mL, 13.6 mmol) was added via syringe. The reaction was maintained between 100°-110° C. overnight when TLC indicated complete reaction. The reaction was allowed to cool to room temperature and partitioned between water and EtOAc. The aqueous layer was extracted with EtOAc and the combined organic layers were washed with water (3 times), dried over MgSO4, filtered, and evaporated under reduced pressure to give the desired product as a yellow oil. 1H NMR (CDCl3): δ8.60 (d, J=5.1, 1H), 8.40 (d, J=9.0, 2H), 7.05-7.00 (m, 7H), 2.57 (s, 3H). This material was carried on without further purification.

reactant | 2-[4-(4-Fluorophenoxy)phenyl]-4-methylpyrimidine | FC1=CC=C(OC2=CC=C(C=C2)C2=NC=CC(=N2)C)C=C1 | C17H13FN2O
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 11 mmol, 11 mL | C1CCOC1 | C4H8O
reactant | 4-(4-fluorophenoxy)benzamidine acetate | 10.2 mmol, 2.92 g | C(C)(=O)O.FC1=CC=C(OC2=CC=C(C(=N)N)C=C2)C=C1
reactant | Acetylacetaldehyde dimethyl acetal | 13.6 mmol, 2 mL | COC(CC(C)=O)OC | C6H12O3
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[4-(4-Fluorophenoxy)phenyl]pyrimidine-4-carboxamide | FC1=CC=C(OC2=CC=C(C=C2)C2=NC=CC(=N2)C(=O)N)C=C1 | C17H12FN3O2
